US08334293B2
Add N-methylmorpholine (3 equiv; 631.52 mmoles; 69.66 mL) to a solution of piperidine-1,4-dicarboxylic acid mono-tert-butyl ester (1.20 equiv; 252.61 mmoles; 57.92 g) in tetrahydrofuran (THF) (400 mL). Cool the mixture to −10° C. with a dry ice-acetone bath. Add isobutyl chloroformate (1.1 equiv; 231.56 mmoles; 30.26 mL) dropwise while maintaining the temperature below −5° C. After 30 min at −5°-10° C., add 2-amino-1-(4-fluoro-3-trifluoromethyl-phenyl)-ethanone hydrochloride (54.23 g; 1.00 equiv; 210.51 mmoles) suspended in THF (300 mL) and stir the mixture in the bath at −5° C. for 20 min. Stir for 1 hour at RT. Add water and EtOAc, then wash the organic layer with water and saturated aqueous sodium chloride. Dry over MgSO4, filter and remove solvent in vacuo. Suspend the crude in MTBE and stir for 2 hours. Filter the solid and dry in vacuo to give 1-[2-(4-Fluoro-3-trifluoromethyl-phenyl)-2-oxo-ethylcarbamoyl]-piperidine-4-carboxylic acid tert-butyl ester (64.44 g; 70.79% yield).

reactant | N-methylmorpholine | 631.52 mmoles, 69.66 mL, 3 equiv | CN1CCOCC1 | C5H11NO
reactant | piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | 252.61 mmoles, 57.92 g, 1.20 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | isobutyl chloroformate | 231.56 mmoles, 30.26 mL, 1.1 equiv | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-amino-1-(4-fluoro-3-trifluoromethyl-phenyl)-ethanone hydrochloride | 210.51 mmoles, 54.23 g, 1.00 equiv | Cl.NCC(=O)C1=CC(=C(C=C1)F)C(F)(F)F
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | THF | 300 mL | O1CCCC1 | C4H8O
product | 1-[2-(4-Fluoro-3-trifluoromethyl-phenyl)-2-oxo-ethylcarbamoyl]-piperidine-4-carboxylic acid tert-butyl ester | 64.44 g, 70.79% yield | C(C)(C)(C)OC(=O)C1CCN(CC1)C(NCC(=O)C1=CC(=C(C=C1)F)C(F)(F)F)=O | C20H24F4N2O4
